US06664271B1
1-benzoyl-3-piperidine carboxylic acid (1.01 g; 4.33 mmol) was suspended in dry dichloromethane (30 ml) under a nitrogen atmosphere. Thionyl chloride (3 ml; 41.3 mmol) was added and this mixture was heated to reflux for approximately 1 hour. It was then cooled to ambient temperature and evaporated under reduced pressure, giving 1-benzoyl-3-piperidinecarbonyl chloride (1.09 g) as a yellow oil. MS m/z (positive ion; run in CH3CN) 503 (dimer+; 30), 254 ([M+2]H+; 35), 252 (MH+; 100), 248 (50), 234 (60), 216 (25), 102 (30).

reactant | 1-benzoyl-3-piperidine carboxylic acid | 4.33 mmol, 1.01 g | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)O | C13H15NO3
reactant | Thionyl chloride | 41.3 mmol, 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-benzoyl-3-piperidinecarbonyl chloride | 1.09 g | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)Cl | C13H14ClNO2
